US04127669
[(8-Methoxy-4-oxo-4H-1-benzopyran-3-yl)oxy]acetic acid
A suspension of methyl [(8-methoxy-4-oxo-4H-1-benzopyran-3-yl)oxy]acetate (200 mg) in 6N hydrochloric acid (20 ml) is stirred at 100° C. for 3 hrs. under nitrogen. The reaction is cooled and the product filtered off and sucked dry. Recrystallization from methanol gives white crystals (180 mg. 86%), mp 215°-217° C.

reactant | methyl [(8-methoxy-4-oxo-4H-1-benzopyran-3-yl)oxy]acetate | 200 mg | COC1=CC=CC=2C(C(=COC21)OCC(=O)OC)=O | C13H12O6
solvent | hydrochloric acid | 6N, 20 ml | Cl | ClH
product | [(8-Methoxy-4-oxo-4H-1-benzopyran-3-yl)oxy]acetic acid | COC1=CC=CC=2C(C(=COC21)OCC(=O)O)=O | C12H10O6
